US06953792B2
2-({(2-[3,5-Bis(trifluoromethyl)phenyl]ethyl}thio)benzothiazole
Tributylphosphine (3.46 mL, 2.81 g, 13.9 mmol) was added over 30 minutes to a mixture of 3,5-bis(trifluoromethyl)benzeneethanol (3.26 g, 12.6 mmol) and 2,2′-dithiobis(benzothiazole) (4.20 g, 12.6 mmol) in tetrahydrofuran (120 mL) and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure and water (150 mL) was added. The mixture was extracted with ether (2×150 mL) and the combined organic fractions were dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (90:10) to give the title compound (3.87 g, 75%). m/z (ES+) 408 (M+1).

reactant | Tributylphosphine | 13.9 mmol, 3.46 mL, 2.81 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 3,5-bis(trifluoromethyl)benzeneethanol | 12.6 mmol, 3.26 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CCO)(F)F | C10H8F6O
reactant | 2,2′-dithiobis(benzothiazole) | 12.6 mmol, 4.20 g | S1C(=NC2=C1C=CC=C2)SSC=2SC1=C(N2)C=CC=C1 | C14H8N2S4
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | {(2-[3,5-Bis(trifluoromethyl)phenyl]ethyl}thio)benzothiazole | 3.87 g, 75% | FC(C=1C=C(C=C(C1)C(F)(F)F)CCSC=1SC2=C(N1)C=CC=C2)(F)F | C17H11F6NS2
